US07582772B2
A warm (45° C.) solution of N-BOC-N-but-3-ynyl-(3,4-dichloro-phenyl)-methanesulfonamide (347 g, 0.885 mol), dichlorobis(triphenylphosphine)palladium (II) (3.50 g, 4.99 mmol), and DMF (700 mL) was added slowly over 8 h to a warm (55° C.), stirred mixture of benzhydryl-(4-chloro-2-iodo-phenyl)-amine (350 g, 0.833 mol), dichlorobis(triphenylphosphine)palladium (II) (3.5 g, 4.99 mmol), copper (I) iodide (20.0 g, 0.105 mol), triethylamine, (259 g, 2.56 mol), and DMF (250 mL). The reaction mixture was stirred and maintained at 55° C. for 30 m after complete addition. The reaction mixture was distilled at reduced pressure using a heating bath temperature of 40-45° C. to remove triethylamine. The reaction mixture was filtered through a celite pad. The pad was washed with DMF (40 mL). 2-Propanol (280 mL) was added to the filtrate. The mixture was warmed to 55° C. Water (280 mL) was added slowly over 1 h to the stirred mixture. The stirred mixture was maintained at 55° C. for 30 m after complete water addition. The mixture was cooled to 10° C. The solid product was collected by filtration and washed with cold 1/1 (v/v) IPA/water (2×300 mL). The solid was vacuum dried at <50° C. to give N-t-butoxycarbonyl-N-{4-[2-(benzhydryl-amino)-5-chloro-phenyl]-but-3-ynyl}-C-(3,4-dichlorophenyl)-methanesulfonamide (534.5 g, 94%) with 98% purity (as determined by HPLC).

reactant | N-BOC-N-but-3-ynyl-(3,4-dichloro-phenyl)-methanesulfonamide | 0.885 mol, 347 g | C(=O)(OC(C)(C)C)N(S(=O)(=O)CC1=CC(=C(C=C1)Cl)Cl)CCC#C | C16H19Cl2NO4S
reactant | benzhydryl-(4-chloro-2-iodo-phenyl)-amine | 0.833 mol, 350 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=C(C=C(C=C1)Cl)I | C19H15ClIN
reactant | triethylamine | 2.56 mol, 259 g | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium | 4.99 mmol, 3.50 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium | 4.99 mmol, 3.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.105 mol, 20.0 g | [Cu]I
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | N-t-butoxycarbonyl-N-{4-[2-(benzhydryl-amino)-5-chloro-phenyl]-but-3-ynyl}-C-(3,4-dichlorophenyl)-methanesulfonamide | 534.5 g, 94% | C(C)(C)(C)OC(=O)N(S(=O)(=O)CC1=CC(=C(C=C1)Cl)Cl)CCC#CC1=C(C=CC(=C1)Cl)NC(C1=CC=CC=C1)C1=CC=CC=C1 | C35H33Cl3N2O4S
